US07585885B2
N-Methyl-5-(3-methyl-[1,2,4]oxadiazol-5-yl)-N-propyl-isophthalamic acid ethyl ester
Stir a solution of 5-(methyl-propyl-carbamoyl)-isophthalic acid monoethyl ester (330 mg, 1.13 mmol), acetamideoxime (117 mg, 1.58 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (303 mg, 1.58 mmol) in dichloromethane (20 mL) at room temperature overnight. Concentrate and purify (silica gel chromatography, eluting with 2:98 methanol:dichloromethane). Concentrate and add THF (30 mL) and 1 N tetrabutylammonium fluoride in THF (43 μL, 0.043 mmol). Reflux the solution for 30 min and concentrate. Add ethyl acetate, extract with saturated aqueous sodium chloride, dry (magnesium sulfate) concentrate and purify (silica gel chromatography, eluting with 50:50 ethyl acetate:hexanes) to give the title compound (135 mg, 36%).

reactant | 5-(methyl-propyl-carbamoyl)-isophthalic acid monoethyl ester | 1.13 mmol, 330 mg | C(C)OC(C1=CC(C(=O)O)=CC(=C1)C(N(CCC)C)=O)=O | C15H19NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.58 mmol, 303 mg | Cl.CN(CCCN=C=NCC)C
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 1 N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 0.043 mmol, 43 μL | C1CCOC1 | C4H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-Methyl-5-(3-methyl-[1,2,4]oxadiazol-5-yl)-N-propyl-isophthalamic acid ethyl ester | 135 mg, 36% | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C1=NC(=NO1)C)=O | C17H21N3O4
